US06653477B2
3. 8-Benzyloxy-6-ethoxycarbonyl-2,3-dimethylimidazo[1,2-a]pyridine
A mixture of 4 g of 8-benzyloxy-6-bromo-2,3-dimethylimidazo[1,2-a]pyridine, 0.4 g of palladium( acetate, 1.33 g of triphenylphosphine, 10 ml of triethylamine and 50 ml of ethanol is heated for 16 h) a carbon monoxide atmosphere in an autoclave (5 bar), the volatile portions are stripped off in vaco and the residue is chromatographed on silica gel (eluent: ethyl acetate). 2.4 g of the title compound melting point 140-1° C. (diethyl ether) are obtained.

reactant | 8-benzyloxy-6-bromo-2,3-dimethylimidazo[1,2-a]pyridine | 4 g | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Br)C(=C(N2)C)C | C16H15BrN2O
reactant | acetate | C(C)(=O)[O-]
reactant | triphenylphosphine | 1.33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium | 0.4 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 8-Benzyloxy-6-ethoxycarbonyl-2,3-dimethylimidazo[1,2-a]pyridine | 2.4 g | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)C(=O)OCC)C(=C(N2)C)C | C19H20N2O3
